* C:\git\2022_ST2PTT\05_LTSpice\npn.asc
Q1 N001 N002 0 0 NPN
V1 Vctrl 0 PULSE(0 5 0.5 0.001 0 0.5 1)
R1 Vcc N001 20
V2 Vcc 0 12
R2 N002 Vctrl 300
R3 N002 0 100
.model NPN NPN
.model PNP PNP
.lib C:\Users\griotre\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 1
.backanno
.end
